US07538242B2
Synthesis of n-butyl (R)-2-(3-formylphenoxy)butyrate
Potassium carbonate (473 mg) was added to a solution of 3-hydroxybenzaldehyde (418 mg) in acetonitrile (10 mL). Subsequently, n-butyl (S)-2-trifluoromethanesulfonyloxybutyrate (1.0 g) was added to the mixture, followed by stirring at room temperature for 12 hours. Ethyl acetate was added to the reaction mixture, and the resultant mixture was washed sequentially with water and saturated brine, followed by drying over sodium sulfate anhydrate. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography (hexane/ethyl acetate=4/1), to thereby yield 904 mg of a colorless, oily substance (99.9%).

reactant | Potassium carbonate | 473 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxybenzaldehyde | 418 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | n-butyl (S)-2-trifluoromethanesulfonyloxybutyrate | 1.0 g | FC(S(=O)(=O)O[C@H](C(=O)OCCCC)CC)(F)F | C9H15F3O5S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | n-butyl (R)-2-(3-formylphenoxy)butyrate | C(=O)C=1C=C(O[C@@H](C(=O)OCCCC)CC)C=CC1 | C15H20O4
